US08791260B2
1-(tert-Butylcarbamoyl)prop-1-en-2-yl 3-amino-6-chloropyrazine-2-carboxylate
To a mixture of 3-amino-6-chloropyrazine-2-carboxylic acid (1.00 g; 5.76 mmol) and triethylamine (2.40 ml; 17.3 mmol) in abs. DMF is added 2-tert-butyl-5-methyl-1,2-oxazol-2-ium hexafluoro-phosphate (4.93 g; 17.3 mmol). The mixture is stirred at r.t. over night. Ice-water is added. The supernatant is decanted from the resin-like product which is sufficiently pure to be further reacted

reactant | 3-amino-6-chloropyrazine-2-carboxylic acid | 5.76 mmol, 1.00 g | NC=1C(=NC(=CN1)Cl)C(=O)O | C5H4ClN3O2
reactant | triethylamine | 17.3 mmol, 2.40 ml | C(C)N(CC)CC | C6H15N
reactant | 2-tert-butyl-5-methyl-1,2-oxazol-2-ium hexafluoro-phosphate | 17.3 mmol, 4.93 g | F[P-](F)(F)(F)(F)F.C(C)(C)(C)[N+]=1OC(=CC1)C
reactant | DMF | CN(C)C=O | C3H7NO
product | 1-(tert-Butylcarbamoyl)prop-1-en-2-yl 3-amino-6-chloropyrazine-2-carboxylate | NC=1C(=NC(=CN1)Cl)C(=O)OC(=CC(NC(C)(C)C)=O)C | C13H17ClN4O3
